US06916819B2
To a suspension of 4-hydroxy-6-isopropyl-3-nitro-1H-pyridin-2-one (3.02 g, 15.2 mmol) in CH3CN (60 mL) at room temperature is added benzyltriethylammonium chloride (13.88 g, 61.0 mmol). The mixture is stirred at room temperature for 5-10 min, and then POCl3 (6.25 mL, 67.1 mmol) is added. The reaction mixture is stirred at room temperature for 15 min and then at reflux for 1 h. After cooling, the reaction mixture is concentrated in vacuo. The flask is then placed in an ice bath, and the residue treated with H2O (˜60 mL). The mixture is stirred for 4 h while slowly warming to rt. The solid that forms over this period of time is collected by filtration and then washed with H2O and a small amount of hexanes. 4-Chloro-6-isopropyl-3-nitro-1H-pyridin-2-one is obtained as a yellow solid. 1H NMR (CDCl3, 300 MHz) δ 13.13 (br s, 1H), 6.24 (s, 1H), 2.89 (sept, J=6.9 Hz, 1H), 1.31 (d, J=6.9 Hz, 6H) ppm.

reactant | 4-hydroxy-6-isopropyl-3-nitro-1H-pyridin-2-one | 15.2 mmol, 3.02 g | OC1=C(C(NC(=C1)C(C)C)=O)[N+](=O)[O-] | C8H10N2O4
reactant | POCl3 | 67.1 mmol, 6.25 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH3CN | 60 mL | CC#N | C2H3N
catalyst | benzyltriethylammonium chloride | 61.0 mmol, 13.88 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 4-Chloro-6-isopropyl-3-nitro-1H-pyridin-2-one | ClC1=C(C(NC(=C1)C(C)C)=O)[N+](=O)[O-] | C8H9ClN2O3
